US05928562
Preparation of 5-Nonyl-2-[4-(3-(4-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutoxy)propoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 3-(4-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutoxy)propyl chloride (6.7 g, 14.6 mmol, prepared from 1,3-dicloropropane and 4-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutanol) with 5-nonyl-2-(4-hydroxyphenyl)pyrimidine (4.32 g, 14.6 mmol). The resulting crude product was purified by recrystallization from ethanol, Kugelrohr distillation, followed by chromatography on silica, eluting with hexane/ethyl acetate (10 vol. % ethyl acetate) to provide a yield of 4.3 g.

reactant | 3-(4-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutoxy)propyl chloride | 14.6 mmol, 6.7 g | FC(OC(C(OC(C(C(COCCCCl)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H8ClF13O3
reactant | 5-nonyl-2-(4-hydroxyphenyl)pyrimidine | 14.6 mmol, 4.32 g | C(CCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C19H26N2O
product | 5-Nonyl-2-[4-(3-(4-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2,3,3,4,4-hexafluorobutoxy)propoxy)phenyl]pyrimidine | C(CCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOCC(C(C(F)(F)OC(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F | C29H33F13N2O4
